Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])[H:12]>>[C:7]([H:8])[O:9][C:10]([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],4.78920556112
[C:4]([H:5])([H:6])=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-0.4314647097699999
[C:4]([O:5][H:6])=[C:7]([H:8])[H:9].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-1.12970175369
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3],5.19911470751
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9]>>[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2],6.16221646523
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:6],2.0338115044
[O:1]=[C:2]([O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:2]([O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[O:1],7.634993083819999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:9]([H:10])([H:11])[H:12].[H:8],4.944659284659999
[C:4]([H:5])([H:6])=[C:7]([H:8])[H:9].[H:1][C:2]([H:3])=[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],1.3720126042200005
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9][H:10]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9],3.78407014256
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])([H:8])=[C:9][H:10],-0.0457317345899
[H:12].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.48323696431
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1],4.15415115503
[O:1]=[C:2]([C:3](=[O:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])[H:8].[O:1][C:2](=[C:3]=[O:4])[C:9]([H:10])([H:11])[H:12],3.71315296328
[C:15]([H:16])[H:17].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-5.33015057642
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11].[O:1],4.11642260112
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])([C:10])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:11]([H:12])[H:13],3.74806155485
[C:1][C:2]([H:3])([H:4])[O:5][H:6]>>[C:1]=[C:2]([H:3])[H:4].[O:5][H:6],2.4921864143900003
[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-3.5378244590599994
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:5],4.10083912821
[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.6116606412
[C:4](=[O:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3]>>[O:1][C@@:2]([H:3])([C:4](=[O:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-0.3117046557189999
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.34203354483
[C:4]=[C:5]([H:6])[H:7].[H:1][C:2]([H:3])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-3.4452327190199994
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.2741232647399998
[H:1][O:2][C@:3]([H:4])(/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3](=[C:5](/[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:4],3.43423647393
[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],-5.364299058069999
